US07709482B2
A mixture of the compound of formula (Dd), 4a,5,6,7-tetrahydro-2H-benzo[6,7]cyclohepta[c]pyridazin-3(4H)-one (4.7 g, 22 mmol) and anhydrous copper(II)chloride (6 g, 44 mmol) was refluxed in acetonitrile (45 mL) for 2 hours. After cooling to ambient temperature, the mixture was poured into ice-water (200 g) and the solid obtained was washed with 10% HCl solution twice (about 20 mL×2) and cold water twice (about 20 mL×2). After freeze-drying, the compound of formula (De), 3-oxo-6,7-dihydro-5H-benzo[6,7]cyclohepta[1,2-c]pyridazine (4.2 g, 90%) was obtained as a white solid, 1H NMR (300 MHz, CDCl3) δ: 10.80 (bs, 1H), 7.53-7.21 (m, 4H), 6.77 (s, 1H), 2.66 (t, J=6.9 Hz, 2H), 2.45 (t, J=6.9 Hz, 2H), 2.14 (quant, J=6.9 Hz, 2H); LC-MS: purity: 100%; MS (m/e): 213 (MH+).

reactant | 4a,5,6,7-tetrahydro-2H-benzo[6,7]cyclohepta[c]pyridazin-3(4H)-one | 22 mmol, 4.7 g | N=1NC(CC2C1C1=C(CCC2)C=CC=C1)=O | C13H14N2O
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
catalyst | copper(II)chloride | 44 mmol, 6 g | [Cu](Cl)Cl
product | 3-oxo-6,7-dihydro-5H-benzo[6,7]cyclohepta[1,2-c]pyridazine | 4.2 g, 90% | O=C1C=C2C(=NN1)C1=C(CCC2)C=CC=C1 | C13H12N2O
